US04933355
Ethyl 2-(3-benzoylthioureido)thiazol-4-ylglyoxylate
The reaction described in Preparation 1 was repeated, but using 20 g of ethyl 2-aminothiazol-4-ylglyoxylate, 16.5 g of benzoyl isothiocyanate, and 100 ml of dimethylformamide, giving the title compound as a pale yellow powder.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 20 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | benzoyl isothiocyanate | 16.5 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(3-benzoylthioureido)thiazol-4-ylglyoxylate | C(C1=CC=CC=C1)(=O)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=S | C15H13N3O4S2
